US04778931
For compounds in which X is --NR2 --(CHR1)n --, the corresponding amino starting compounds are employed to form the desired amino compound. Thus, aniline is condensed with 3-(1-hydroxyhexyl)benzylbromide to form 2-[3-(1-hydroxyhexyl)benzylamino]benzene. Alternatively, benzyl bromide is condensed with 3-(1-hydroxyhexyl)aniline to form 2-[3-(1-hydroxyhexyl)anilinomethyl]benzene.

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 3-(1-hydroxyhexyl)benzylbromide | OC(CCCCC)C=1C=C(CBr)C=CC1 | C13H19BrO
product | 2-[3-(1-hydroxyhexyl)benzylamino]benzene | OC(CCCCC)C=1C=C(CNC2=CC=CC=C2)C=CC1 | C19H25NO
